US04197240
6-[[[3-(Azidomethyl)-4-hydroxyphenyl]hydroxyacetyl]amino]-3,3-dimethyl-7-oxo-4-thia-1-azabicyclo[3.2.0]heptane-2-carboxylic acid
α-Hydroxy-3-(azidomethyl)-4-hydroxybenzeneacetic acid (30 mmole) is dissolved in tetrahydrofuran (THF). To this solution is added (45 mmole) bistrimethylsilylacetamide and (30 mmole) triethylamine. The mixture is refluxed for 2 hours after which the reaction mixture is cooled to about -10° C. and 30 mmole of isobutylchloroformate is added dropwise. After 30 mixtures at -10° C., 30 mmole of 6-amino-3,3-dimethyl-7-oxo-4-thia-1-azabicyclo [3.2.0]heptane-2-carboxylic acid in 50 ml of THF-20 ml of water containing 30 mmole of triethylamine is added to the previously prepared solution at -10° C. The temperature of the reaction mixture is allowed to warm from -10° C. to room temperature over one hour. About 50 ml of saturated sodium bicarbonate and 100 ml of water are added to the reaction mixture which is twice extracted with ether. The aqueous phase is layered with ethyl acetate and the pH is adjusted to 1.5 by the addition of hydrochloric acid. The ethyl acetate is separated from the aqueous phase, dried over sodium sulfate, filtered and evaporated to give the title compound.

reactant | α-Hydroxy-3-(azidomethyl)-4-hydroxybenzeneacetic acid | 30 mmole | OC(C(=O)O)C1=CC(=C(C=C1)O)CN=[N+]=[N-] | C9H9N3O4
reactant | bistrimethylsilylacetamide | 45 mmole | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
reactant | isobutylchloroformate | 30 mmole | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | 6-amino-3,3-dimethyl-7-oxo-4-thia-1-azabicyclo [3.2.0]heptane-2-carboxylic acid | 30 mmole | NC1C2SC(C(N2C1=O)C(=O)O)(C)C | C8H12N2O3S
reactant | sodium bicarbonate | 50 ml | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | THF | 50 ml | O1CCCC1 | C4H8O
solvent | water | 100 ml | O | H2O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | water | 30 mmole | O | H2O
solvent | triethylamine | 30 mmole | C(C)N(CC)CC | C6H15N
product | 6-[[[3-(Azidomethyl)-4-hydroxyphenyl]hydroxyacetyl]amino]-3,3-dimethyl-7-oxo-4-thia-1-azabicyclo[3.2.0]heptane-2-carboxylic acid | N(=[N+]=[N-])CC=1C=C(C=CC1O)C(C(=O)NC1C2SC(C(N2C1=O)C(=O)O)(C)C)O | C17H19N5O6S
